US05883093
Step 2: 3-fluoro-4-(3-methoxy-1-azetidinyl)nitrobenzene
A solution of 1-diphenylmethyl)-3-methoxyazetidine (2.000 g, 7.91 mmol) in 25% tetrahydrofuran/ethanol (100 mL) was treated with 5N HCl (5.0 mL) and palladium hydroxide on carbon (Pearlman's catalyst, 0.500 g). The mixture was shaken on a Parr apparatus under 45 psi of H2. After 16 h some starting material still remained by TLC analysis (silica gel, 6% acetonitrile/chloroform). An additional 0.500 g of Pearlman's catalyst was added and the hydrogenolysis continued a further 16 h, at which time the reaction appeared to be complete. The reaction mixture was filtered through Celite® and the filtrate concentrated under reduced pressure to an amber oil. This material was dissolved in dimethyl sulfoxide (30 mL) and treated with dipotassium hydrogen phosphate (6.88 g, 39.6 mmol) and 3,4-difluoronitrobenzene (1.05 mL, 9.49 mmol). The reaction mixture was stirred at ambient temperature for 16 h, at which time TLC analysis (silica gel, 6% acetonitrile/chloroform) revealed the reaction to be complete. The reaction mixture was diluted with water (150 mL) and extracted with chloroform (3×40 mL). The combined organic extracts were washed with water (3×25 mL) and brine, dried over sodium sulfate, filtered and concentrated in vacuo to give a crude product. Purification was accomplished by chromatography over silica gel (100 g), eluting with a gradient of 0-1% acetonitrile/chloroform. Concentration of appropriate fractions then afforded 1.50 g (84%) of the title compound as a bright yellow solid with mp 57.5°-58° C. and MS(EI) 226 (M+).

reactant | 3-methoxyazetidine | 7.91 mmol, 2.000 g | COC1CNC1 | C4H9NO
reactant | HCl | 5N, 5.0 mL | Cl | ClH
reactant | dipotassium hydrogen phosphate | 39.6 mmol, 6.88 g | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | 3,4-difluoronitrobenzene | 9.49 mmol, 1.05 mL | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
solvent | tetrahydrofuran ethanol | 100 mL | O1CCCC1.C(C)O
catalyst | Pearlman's catalyst | 0.500 g | [OH-].[OH-].[Pd+2]
solvent | water | 150 mL | O | H2O
catalyst | palladium hydroxide on carbon | 0.500 g | [OH-].[OH-].[Pd+2]
solvent | acetonitrile chloroform | C(C)#N.C(Cl)(Cl)Cl
product | 3-fluoro-4-(3-methoxy-1-azetidinyl)nitrobenzene | 1.50 g, 84% | FC=1C=C(C=CC1N1CC(C1)OC)[N+](=O)[O-] | C10H11FN2O3
